US07799806B2
Step 2: 4-Fluoro-3-nitro-benzoic acid allyl ester
To a mechanically stirred solution of 4-fluoro-3-nitro-benzoic acid (113.0 g, 0.61 mol, 1.0 equiv) in DMF (770 ml) was added portionwise potassium carbonate (168.7 g, 1.22 mol, 2.0 equiv). Allyl bromide (110.8 g, 0.92 mol, 1.5 equiv) was added to the reaction mixture and stirring continued at rt overnight. The reaction mixture was filtered, the filtrate poured into water (4 L), kept for 2 h and then extracted with ethyl acetate (3×1 L). The organic layer was washed with water, dried over Na2SO4 and concentrated by evaporation under reduced pressure. The residue was purified with silica column chromatography eluting with a gradient of hexane/ethyl acetate (100:0→98:2) to obtain 114.1 g (83%) of the title compound. 1H NMR (400 MHz, DMSO): δ 4.86 (d, J=5.4 Hz, 2H), 5.30 (d, J=10.6 Hz, 1H), 5.43 (d, J=17.2, 1H), 6.01-6.10 (m, 1H), 7.73-7.78 (m, 1H), 8.34-8.37 (m, 1H), 8.60 (d, J=7.2 Hz, 1H).

reactant | 4-fluoro-3-nitro-benzoic acid | 0.61 mol, 113.0 g, 1.0 equiv | FC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H4FNO4
reactant | potassium carbonate | 1.22 mol, 168.7 g, 2.0 equiv | C([O-])([O-])=O.[K+].[K+]
reactant | Allyl bromide | 0.92 mol, 110.8 g, 1.5 equiv | C(C=C)Br | C3H5Br
solvent | DMF | 770 ml | CN(C)C=O | C3H7NO
product | 4-Fluoro-3-nitro-benzoic acid allyl ester | 114.1 g, 83% | C(C=C)OC(C1=CC(=C(C=C1)F)[N+](=O)[O-])=O | C10H8FNO4
